US07812040B2
N-({trans-3-[2,5-Dichloro-4-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)-N,1-dimethylcyclopropanecarboxamide hydrochloride.
CDI (71 mg, 0.43 mmol) was added to a solution of 1-methylcyclopropanecarboxylic acid CAS 6914-76-7 (66 mg, 65 mmol) in THF (2 ml) at RT under stirring, the mixture was stirred at RT for 1 h. Example 381, ({trans-3-[2,5-dichloro-4-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)methylamine (150 mg, 0.43 mmol) was added to the mixture and the solution was stirred at RT for 20 h and evaporated. The residue was purified by chromatography (silica gel, 63-100 μm, 5 g, hexane/CHCl3 20:80→0:100, then CHCl3/MeOH 100:0→95:5). The residue was dissolved in ether (1 mL). 4N HCl/dioxane (0.20 mL) was added, and the reaction mixture was evaporated to dryness. The obtained crystals were washed with ether and dried in vacuo to give the title compound (65 mg, 32%) as beige crystals. LC/MS data: 425.1 (M+H) (calculated for C22H30Cl2N2O2 425.4). 1H NMR-data (DMSO-d6): 10.77 (br.s, 1H, NH+); 8.01 (s, 1H, NH); 7.09 (s, 1H, Ar—H); 4.80-4.92 (m, 1H), 4.42-4.56 (m, 2H); 3.33-3.55 (m, 4H); 2.95-3.18 (m, 5H); 2.60-2.70 (m, 1H); 2.17-2.34 (m, 4H); 1.84-2.17 (m, 4H); 1.25 (s, 3H); 0.92-0.96 (m, 2H), 0.46-0.52 (m, 2H).

reactant | CDI | 0.43 mmol, 71 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-methylcyclopropanecarboxylic acid | CC1(CC1)C(=O)O | C5H8O2
reactant | ({trans-3-[2,5-dichloro-4-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)methylamine | 0.43 mmol, 150 mg | ClC1=C(O[C@@H]2C[C@H](C2)CNC)C=C(C(=C1)CN1CCCC1)Cl | C17H24Cl2N2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-({trans-3-[2,5-Dichloro-4-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)-N,1-dimethylcyclopropanecarboxamide hydrochloride | 65 mg, 32% | Cl.ClC1=C(O[C@@H]2C[C@H](C2)CN(C(=O)C2(CC2)C)C)C=C(C(=C1)CN1CCCC1)Cl | InChI=1S/C22H30Cl2N2O2.ClH/c1-22(5-6-22)21(27)25(2)13-15-9-17(10-15)28-20-12-18(23)16(11-19(20)24)14-26-7-3-4-8-26;/h11-12,15,17H,3-10,13-14H2,1-2H3;1H/t15-,17-;
